US07211573B2
2-Hydroxy-2-methyl-N-(3,3,3-trifluoro-propyl)-malonamic acid ethyl ester
To a solution of 2.00 g (8.51 mmol) 2-hydroxy-2-methyl-malonic acid monoethyl ester in 60 ml of tetrahydrofuran 1.27 g (8.51 mmol) of 3,3,3-trifluoropropylamine hydrochloride, 1.67 g (8.51 mmol) of N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride, 1.17 g (8.51 mmol) of 1-hydroxybenzotrizole hydrate and 4.46 ml (25.5 mmol) of N,N-diisopropyl-ethylamine were added. The mixture was stirred at room temperature for 18 h. Silicagel was added and the solvent was removed by distillation. The residue was purified by chromatography on silicagel dichloromethane/methanol 7:3 to yield 2.33 g (94%) of the title compound, MS m/e (%): 258.1 (M+H+, 100).

reactant | 2-hydroxy-2-methyl-malonic acid monoethyl ester | 8.51 mmol, 2.00 g | C(C)OC(C(C(=O)O)(C)O)=O | C6H10O5
reactant | tetrahydrofuran | 8.51 mmol, 60 ml, 1.27 g | O1CCCC1 | C4H8O
reactant | 3,3,3-trifluoropropylamine hydrochloride | Cl.FC(CCN)(F)F
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 8.51 mmol, 1.67 g | Cl.CN(CCCN=C=NCC)C
reactant | N,N-diisopropyl-ethylamine | 25.5 mmol, 4.46 ml | C(C)(C)N(C(C)C)CC | C8H19N
product | 2-Hydroxy-2-methyl-N-(3,3,3-trifluoro-propyl)-malonamic acid ethyl ester | 2.33 g, 94% | C(C)OC(C(C(=O)NCCC(F)(F)F)(C)O)=O | C9H14F3NO4
